US05366987
(±)-3-Dodecyl-α-phenyl-N-(2,6-bis(1-methylethyl)phenyl)-5-isoxazole acetamide
In a manner similar to Example 128, a mixture of 3-dodecyl-α-phenyl-5-isoxazole acetic acid and 5-dodecyl-α-phenyl-3-isoxazole acetic acid was condensed with 2,6-bis(1-methylethyl)aniline to give after chromatography pure title compound; mp 115°-117° C.

reactant | 3-dodecyl-α-phenyl-5-isoxazole acetic acid | C(CCCCCCCCCCC)C1=NOC(=C1)C(C(=O)O)C1=CC=CC=C1 | C23H33NO3
reactant | 5-dodecyl-α-phenyl-3-isoxazole acetic acid | C(CCCCCCCCCCC)C1=CC(=NO1)C(C(=O)O)C1=CC=CC=C1 | C23H33NO3
reactant | 2,6-bis(1-methylethyl)aniline | CC(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
product | (±)-3-Dodecyl-α-phenyl-N-(2,6-bis(1-methylethyl)phenyl)-5-isoxazole acetamide | C(CCCCCCCCCCC)C1=NOC(=C1)C(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)C1=CC=CC=C1 | C35H50N2O2
